US07935703B2
To a solution of 4-(2,4-dichloro-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.38 g, 1.1 mmol) in dichloromethane (5 mL) was added trifluoroacetic acid (1 mL). The reaction was stirred at room temperature for 15 min. Solvent was removed in vacuo and the residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The aqueous layer was extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered and concentrated in vacuo to give 4-(2,4-dichloro-phenyl)-piperidin-4-ol as a white solid (0.23 g, 85%). The material was used as is without further purification.

reactant | 4-(2,4-dichloro-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 1.1 mmol, 0.38 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=C(C=C1)Cl)Cl | C16H21Cl2NO3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(2,4-dichloro-phenyl)-piperidin-4-ol | 0.23 g, 85% | ClC1=C(C=CC(=C1)Cl)C1(CCNCC1)O | C11H13Cl2NO
